US05891909
c) 3-[5-Methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propionaldehyde
At 0° C. to a solution of 276 mg (0.855 mmol) of 3-[5-methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propanol, as prepared in the preceding step, in anhydrous dichloromethane (2 mL) containing 450 μL (2.58 mmol) of N,N-diisopropylethylamine and 92 μL (1.19 mmol) of anhydrous dimethyl sulfoxide was added 204 mg (1.28 mmol) of sulfur trioxide pyridine complex. The reaction mixture was stirred at 0° C. for 30 min, diluted with 20 mL of toluene, and concentrated to an oil which was used directly in the next reaction.

reactant | 3-[5-methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propanol | 0.855 mmol, 276 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C=1C=NC=CC1 | C15H17NO5S
reactant | N,N-diisopropylethylamine | 2.58 mmol, 450 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 1.19 mmol, 92 μL | CS(=O)C | C2H6OS
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[5-Methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propionaldehyde | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C=1C=NC=CC1 | C15H15NO5S
